US07713994B2
(4Z)-4-[(Quinolin-6-ylamino)methylene]isoquinoline-1,3(2H,4H)-dione
A mixture of 4-methoxymethylene-4H-isoquinoline-1,3-dione (101.5 mg, 0.5 mmol), quinolin-6-ylamine (72.2 mg, 0.5 mmol) in 1 mL of N,N-dimethylformamide is heated at 110° C. for 1 h. After cooling in the refrigerator, the precipitate is collected, and washed with ether to give 130 mg (82%) of greenish yellow solid mp 277-278° C.; MS (ESI) m/z 316.10 (M+1); Analysis for C19H13N3O2: Calcd: C, 72.37; H, 4.16; N, 13.33. Found: C, 71.86; H, 4.02; N, 13.25.

reactant | 4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.5 mmol, 101.5 mg | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | quinolin-6-ylamine | 0.5 mmol, 72.2 mg | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-[(Quinolin-6-ylamino)methylene]isoquinoline-1,3(2H,4H)-dione | 130 mg, 82% | N1=CC=CC2=CC(=CC=C12)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O | C19H13N3O2
